US07514583B2
A mixture of piperonal (460 mg) and 3,4-methylenedioxyacetophenone (500 mg) in ethanol (20 ml) was treated with 1M NaOH solution (4 ml), then the mixture was stirred overnight. The pale yellow crystalline solid was filtered off, washed with water then cold aqueous ethanol and dried to give pure bis(3,4-methylenedioxy)chalcone DC-0006B (476 mg, 53%).

reactant | piperonal | 460 mg | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 3,4-methylenedioxyacetophenone | 500 mg | CC(=O)C1=CC2=C(C=C1)OCO2 | C9H8O3
reactant | NaOH | 1M, 4 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | bis(3,4-methylenedioxy)chalcone | C1OC=2C=C(C=CC2O1)C=CC(=O)C1=CC2=C(C=C1)OCO2 | C17H12O5
